US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-iodoquinoxaline
To a mechanically stirred solution of 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 26, 38.12 g, 0.14 mol) in acetone at 0° C. was added 2M aqueous hydrochloric acid solution (396 mL, 0.79 mol), followed dropwise by addition of 1M aqueous sodium nitrite solution (208 mL, 0.28 mol). After 0.25 hour at 0° C., 5M aqueous potassium iodide solution (278 mL, 1.39 mol) was added maintaining the reaction temperature below 5° C. The mixture was then warmed to 10° C. over 0.5 hour, the acetone removed under reduced pressure and the residue partitioned between water and ethyl acetate. The organic extract was washed with 10% aqueous sodium bisulphite solution, then saturated aqueous sodium bicarbonate solution, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with toluene to give the title compound (16.9 g, 32%).

reactant | 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 0.14 mol, 38.12 g | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
reactant | hydrochloric acid | 0.79 mol, 2M, 396 mL | Cl | ClH
reactant | sodium nitrite | 0.28 mol, 1M, 208 mL | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.39 mol, 5M, 278 mL | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 6,7-Dichloro-2,3-dimethoxy-5-iodoquinoxaline | 16.9 g, 32% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)I | C10H7Cl2IN2O2
